US06828297B2
Tetraethylene glycol monobenzylether (39)
To the oil of non-polydispersed tetraethylene glycol (19.4 g, 0.10 mol) was added a solution of NaOH (4.0 g in 4.0 mL) and the reaction was stirred for 15 mm. Then benzyl chloride (3.54 mL, 30.8 mmol) was added and the reaction mixture was heated to 100° C. and stirred overnight. The reaction mixture was cooled to room temperature, diluted with sat. NaCl (250 mL), and washed CH2Cl2 (2×200 mL). The organic layers were combined, washed sat. NaCl, dried MgSO4, and chromatographed (silica, ethyl acetate) to afford the non-polydispersed title compound as a yellow oil (6.21 g, 71% yield).

reactant | tetraethylene glycol | 0.10 mol, 19.4 g | C(COCCOCCOCCO)O | C8H18O5
reactant | NaOH | 4.0 mL, 4.0 g | [OH-].[Na+]
reactant | benzyl chloride | 30.8 mmol, 3.54 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | NaCl | 250 mL | [Na+].[Cl-]
product | Tetraethylene glycol monobenzylether | 6.21 g, 71% yield | C(C1=CC=CC=C1)OCCOCCOCCOCCO | C15H24O5
